US08071772B2
Step A. N2-(2,4-Dimethyl-6-nitrophenyl)-N1,N1-dimethylglycinamide
A mixture of 2,4-dimethyl-6-nitroaniline (5.00 g, 30.1 mmol), 2-chloro-N,N-dimethylacetamide (18.3 g, 150 mmol), K2 CO3 (6.24 g, 45.2 mmol), and KI (499 mg, 3.01 mmol) in DMF (100 mL) was heated at 120° C. for 7 h, then at 130° C. for 14 h. The cooled mixture was quenched with H2O (200 mL) and extracted with CH2 Cl2 (3×150 mL). The combined organic layers were dried over Na2 SO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 50:50, to give the title compound. MS: m/z=252 (M+1).

reactant | 2,4-dimethyl-6-nitroaniline | 30.1 mmol, 5.00 g | CC1=C(N)C(=CC(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | 2-chloro-N,N-dimethylacetamide | 150 mmol, 18.3 g | ClCC(=O)N(C)C | C4H8ClNO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N2-(2,4-Dimethyl-6-nitrophenyl)-N1,N1-dimethylglycinamide | CC1=C(C(=CC(=C1)C)[N+](=O)[O-])NCC(=O)N(C)C | C12H17N3O3
